US04670448
N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]benzamide
50% Benzoic anhydride (0.57 g) was added to a solution of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine (0.4 g) in pyridine (10 ml) and stirred for 0.5 h at 80°. Excess pyridine was evaporated and the residue was diluted with water (50 ml), basified with solid potassium carbonate and extracted with ethyl acetate. The extract was evaporated to give a gum which was chromatographed using methanol. The resulting oil was crystallized from ethyl acetate-petroleum ether (b.p. 60°-80°) (1:2) to give the title compound (0.26 g) as white crystals, m.p. 70°.

reactant | Benzoic anhydride | 0.57 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine | 0.4 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CN | C19H30N6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]benzamide | 0.26 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CNC(C1=CC=CC=C1)=O | C26H34N6O2
